My two stage CMOS op-amp - open loop

* ---------------- Stage 1 ----------------
M1 d1 vin_l tail vdd PMOS W=20u L=1u

M2 d2 vin_h tail vdd PMOS W=20u L=1u

M3 d1 d1 vss vss NMOS W=20u L=1u

M4 d2 d1 vss vss NMOS W=20u L=1u

M5 tail pbias vdd vdd PMOS W=20u L=1u

M8 pbias pbias vdd vdd PMOS W=20u L=1u

I_ref pbias vss DC 20u $ 1:1 mirror -> tail = 20uA

* ---------------- Stage 2 ----------------
M7 v0 pbias vdd vdd PMOS W=20u L=1u

M6 v0 d2 vss vss NMOS W=40u L=1u

* ---------------- Capacitors ----------------
Cc d2 v0 5p

Cl v0 0 5p

* ---------------- Voltages ----------------
Vdd vdd 0 DC 2.5

Vss vss 0 DC -2.5

Vin_h vin_h 0 DC 0 AC 1

Vin_l vin_l 0 DC 0 

* ---------------- Models ----------------
.model NMOS NMOS (LEVEL=1 VTO=0.7 KP=110u LAMBDA=0.04)

.model PMOS PMOS (LEVEL=1 VTO=-0.8 KP=50u LAMBDA=0.05)

.control
op
print v(pbias) v(tail) v(d1) v(d2) v(v0)
print @m1[id] @m2[id] @m5[id] @m6[id] @m7[id]
ac dec 50 1 1G
let gaindb = vdb(v0)
let phasedeg = vp(v0)*180/3.14159265
meas ac A0_dB find gaindb at=1
meas ac GBW_Hz when gaindb=0
meas ac PM_raw find phasedeg when gaindb=0
meas ac phase_lowf find phasedeg at=1
wrdata openloop.txt vdb(v0) vp(v0)
.endc

.end