VCVS control - ideal single-pole op-amp - closed loop

* --- ideal amplifier: A0 = 46600, single pole at 103.3 Hz ---
E1 vamp 0 vin_h vin_l 46600
Rp vamp v0 1meg
Cp v0 0 1.546n

* --- same feedback network as the real circuit ---
R1 vin_l 0 100k
Rf v0 vin_l 4900k

Vin_h vin_h 0 DC 0 AC 1

.control
ac dec 100 1k 10meg
let a = mag(v(v0))
let adb = vdb(v0)
meas ac acl_lowf find adb at=1k
let err = abs(a - 50)/50
meas ac f_break when err=0.05
.endc

.end